US07375134B2
To a solution of methyl N-((benzyloxy)carbonyl)-4,4-difluoro-L-norvalinate (1.59 g, 5.29 mmol) in ethanol (50 mL) was added lithium chloride (919 mg) and the mixture was stirred for 10 minutes. Sodium borohydride (820 mg) was added slowly, the mixture stirred for 2 hours. Then, another portion of sodium borohydride (100 mg) was added and stirring continued for 30 minutes. The mixture was diluted with water (20 mL) and neutralized slowly with 1N HCl followed by the addition of another aliquot of water. The mixture was extracted with ethyl acetate (2×), washed with brine, dried over magnesium sulfate, filtered and the solvent evaporated under vacuum to afford benzyl (1S)-3,3-difluoro-1-(hydroxymethyl)butylcarbamate.

reactant | methyl N-((benzyloxy)carbonyl)-4,4-difluoro-L-norvalinate | 5.29 mmol, 1.59 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)(F)F)C(=O)OC | C14H17F2NO4
reactant | lithium chloride | 919 mg | [Cl-].[Li+]
reactant | Sodium borohydride | 820 mg | [BH4-].[Na+]
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
solvent | HCl | 1N | Cl | ClH
product | benzyl (1S)-3,3-difluoro-1-(hydroxymethyl)butylcarbamate | FC(C[C@@H](CO)NC(OCC1=CC=CC=C1)=O)(C)F | C13H17F2NO3
